US03952012
5-(p-Chlorobenzoyl)-pyrrole-2-acetonitrile:
To a chilled suspension of 26.80 g. (0.2 mole) of aluminum chloride in 110 ml. of methylene chloride is added dropwise 35 g. (0.2 mole) of p-chlorobenzoyl chloride. The mixture is added dropwise to a solution of 21.22 g. (0.2 mole) of pyrrole-2-acetonitrile in 125 ml. methylene chloride which is cooled externally with an ammonium chloride ice bath. After addition is complete, the reaction mixture is stirred for ten minutes at 0°C. and then poured into ice acidified with dilute hydrochloric acid. A solid precipitate, 5-(p-chlorobenzoyl)-pyrrole-2-acetonitrile, which is filtered off, washed with hot methanol and dried, m.p. 203°-205°C.

reactant | aluminum chloride | 0.2 mole | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | p-chlorobenzoyl chloride | 0.2 mole | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | pyrrole-2-acetonitrile | 0.2 mole | N1C(=CC=C1)CC#N | C6H6N2
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-(p-Chlorobenzoyl)-pyrrole-2-acetonitrile | ClC1=CC=C(C(=O)C2=CC=C(N2)CC#N)C=C1 | C13H9ClN2O
